US05990101
(1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(imidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate (internal salt)
The same procedure as in Example 1 was repeated except that 91 mg of allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate and 155 mg of imidazo[5,1-b]thiazole were used, thereby obtaining 21.6 mg of the title compound.

reactant | allyl (1S,5R,6S)-6-[(1R)-1-allyloxycarbonyloxyethyl]-2-hydroxymethyl-1-methyl-1-carbapen-2-em-3-carboxylate | 91 mg | C(C=C)OC(=O)O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CO)C(=O)OCC=C)C1=O | C18H23NO7
reactant | imidazo[5,1-b]thiazole | 155 mg | S1C=2N(C=C1)C=NC2 | C5H4N2S
product | (1S,5R,6S)-6-[(1R)-1-hydroxyethyl]-2-(imidazo[5,1-b]thiazolium-6-yl)methyl-1-methyl-1-carbapen-2-em-3-carboxylate | 21.6 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)CN2C=[N+]3C(SC=C3)=C2)C(=O)[O-])C1=O | C16H17N3O4S
